US09388189B2
(S)-2-(1-((5-(1H-Pyrazol-3-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-(1H-Pyrazol-3-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (39 mg, 0.07 mmol) was treated with trifluoroacetic acid (1.4 mL, 18.17 mmol) and a solution of ammonia (7N in methanol, 1.4 mL, 9.8 mmol) according to the method described in Example 27 to give 18 mg (60% yield) of the title compound. Purity 100%.

reactant | (S)-2-(1-((5-(1H-Pyrazol-3-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.07 mmol, 39 mg | N1N=C(C=C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C30H35N9O2Si
reactant | trifluoroacetic acid | 18.17 mmol, 1.4 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 9.8 mmol, 7N, 1.4 mL | N | H3N
product | (S)-2-(1-((5-(1H-Pyrazol-3-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 18 mg, 60% yield | N1N=C(C=C1)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C | C24H21N9O
